US06770662B2
(5-benzyloxy-4-methoxy-2-methylphenyl)(2-chloro-4-trifluoromethyl-3-pyridyl)methanol (5.9 g) was dissolved in a mixed solvent of anhydrous methylene chloride (50 ml) and acetonitrile (5 ml), and tetrapropylammonium perruthenate (95 ml), N-methylmorpholine-N-oxide (2.38 g) and molecular sieve 4A (6.8 g) were sequentially added thereto, followed by stirring in a stream of argon at room temperature for three nights. The reaction mixture was distilled off under reduced pressure, the residue thus obtained was suspended in methylene chloride and subjected to filtration by celite, and the residue was adequately washed with methylene chloride (200 ml). The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (hexane-ethyl acetate) to obtain 4.93 g (yield 84%) of 3-(5-benzyloxy-4-methoxy-2-methylbenzoyl)-2-chloro-4-trifluoromethylpyridine (compound No. 27; m.p. 116-117° C.), and its structure was confirmed by nuclear magnetic resonance spectrum.

reactant | (5-benzyloxy-4-methoxy-2-methylphenyl)(2-chloro-4-trifluoromethyl-3-pyridyl)methanol | 5.9 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)C(O)C=1C(=NC=CC1C(F)(F)F)Cl)C)OC | C22H19ClF3NO3
reactant | N-methylmorpholine-N-oxide | 2.38 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | tetrapropylammonium perruthenate | 95 ml | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 3-(5-benzyloxy-4-methoxy-2-methylbenzoyl)-2-chloro-4-trifluoromethylpyridine | 4.93 g, yield 84% | C(C1=CC=CC=C1)OC=1C(=CC(=C(C(=O)C=2C(=NC=CC2C(F)(F)F)Cl)C1)C)OC | C22H17ClF3NO3
